US06699867B2
A suspension of 0.42 g de N-(tert-butyl)-N′-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl]-thiourea in 3.9 mL of an aqueous 6N hydrochloric acid is heated at a temperature of about 100° C. for 5 hours. After cooling, the reaction medium is concentrated under reduced pressure (2 kPa) at a temperature of about 55° C. The residue obtained is dried in an oven under vacuum (2 kPa) for 4 hours. About 0.47 g of 4-(4-methyl-piperazin-1-ylmethyl)-4,5-dihydro-thiazol-2-ylamine, trihydrochloride are obtained in the form of a very hygroscopic off-white paste. [1H NMR spectrum (300 MHz, (CD3)2SO d6 with addition of a few drops of CD3COOD d4. δ in ppm): from 2.55 to 2.90 (mf, 4H); 2.80 (s, 3H); from 2.95 to 3.30 (mf, 4H); from 3.30 to 3.60 (mf, 2H); 3.40 (dd, J=11.5 and 5.5 Hz, 1H); 3.69 (dd, J=11.5 and 7.5 Hz, 1H); 4.51 (mt, 1H)].

reactant | N-(tert-butyl)-N′-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl]-thiourea | C(C)(C)(C)NC(=S)NC(CO)CN1CCN(CC1)C | C13H28N4OS
reactant | hydrochloric acid | 6N | Cl | ClH
product | 4-(4-methyl-piperazin-1-ylmethyl)-4,5-dihydro-thiazol-2-ylamine, trihydrochloride | 0.47 g | Cl.Cl.Cl.CN1CCN(CC1)CC1N=C(SC1)N | InChI=1S/C9H18N4S.3ClH/c1-12-2-4-13(5-3-12)6-8-7-14-9(10)11-8;;;/h8H,2-7H2,1H3,(H2,10,11);3*1H
